US06683211B1
Methanesulfonyl chloride (0.022 ml, 0.286 mmol) is added dropwise to a solution of 2-(4-chloro-phenyl)-N-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide (0.1 g, 0.26 mmol), and Et3N (0.036 ml, 0.26 mmol) in 1 ml CH2Cl2 at 0° C. The reaction mixture is allowed to warm to room temperature and stirred for another 2 hours. The reaction mixture is then washed with water, 1N HCl, and brine and dried over Na2SO4. After rotary evaporation, the product is purified by flash chromatography (ethyl acetate:hexane, 1:2) to yield 2-(4-chloro-phenyl)-N-mesyloxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide as a solid, mp. 91-93° C.

reactant | Methanesulfonyl chloride | 0.286 mmol, 0.022 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(4-chloro-phenyl)-N-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide | 0.26 mmol, 0.1 g | ClC1=CC=C(C=C1)CC(=O)N(CCC1=CC(=C(C=C1)OCC#C)OC)O | C20H20ClNO4
reactant | Et3N | 0.26 mmol, 0.036 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-chloro-phenyl)-N-mesyloxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide | ClC1=CC=C(C=C1)CC(=O)N(CCC1=CC(=C(C=C1)OCC#C)OC)OS(=O)(=O)C | C21H22ClNO6S
